US04034088
(2-methylthio-imidazol-1-yl)-acetic acid (10.3 g.) is dissolved in dimethylformamide (360 cc.), by heating to 50° C. After cooling, 3-acetoxymethyl-7-amino-2-(tertiary butoxycarbonyl)-8-oxo-5-thia-1-aza-bicyclo[4,2,0]oct-2-ene (21.4 g.) and dicyclohexylcarbodiimide (13.5 g.) are added. The reagents are contacted for 18 hours, with stirring, at a temperature of about 20° C., and then the solid is filtered off. The filtrate is taken up in ethyl acetate (2.5 liters) and is washed with a saturated aqueous solution of sodium bicarbonate and then with water. Extraction is then effected using N hydrochloric acid (400 cc.), and the acid aqueous phase is washed with ethyl ether and then brought to pH 8 by adding a 4 N solution of sodium hydroxide. The oil which separates out is extracted with methylene chloride (500 cc.). The methylene chloride extracts are washed with water, dried over sodium sulphate, treated with decolorising charcoal and concentrated to dryness under reduced pressure (20 mm.Hg.). An orange-yellow oily residue (30.2 g.) is obtained and is purified by crystallisation from a mixture of methanol (32 cc.) and isopropyl ether (210 cc.) to give 3-actoxymethyl-2-(tertiary butoxycarbonyl)-7-[(2-methylthio-imidazol-1-yl)-acetamido]-8-oxo-5-thia-1-aza-bicyclo[4,2,0]oct-2-ene (12.3 g.), m.p. 170° C.

reactant | (2-methylthio-imidazol-1-yl)-acetic acid | 10.3 g | CSC=1N(C=CN1)CC(=O)O | C6H8N2O2S
reactant | 3-acetoxymethyl-7-amino-2-(tertiary butoxycarbonyl)-8-oxo-5-thia-1-aza-bicyclo[4,2,0]oct-2-ene | 21.4 g | C(C)(=O)OCC1=C(N2C(C(C2SC1)N)=O)C(=O)OC(C)(C)C | C14H20N2O5S
reactant | dicyclohexylcarbodiimide | 13.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 360 cc | CN(C=O)C | C3H7NO
product | 3-actoxymethyl-2-(tertiary butoxycarbonyl)-7-[(2-methylthio-imidazol-1-yl)-acetamido]-8-oxo-5-thia-1-aza-bicyclo[4,2,0]oct-2-ene | 12.3 g | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(CN1C(=NC=C1)SC)=O)=O)C(=O)OC(C)(C)C | C20H26N4O6S2
